US08110581B2
Step 2. isopropyl {-4-[2-(trans-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]dec-7-yl]phenyl}carbamate
A mixture of 7-(4-aminophenyl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one (20 mg, 0.00006 mol), isopropyl chloroformate (11 mg, 0.000087 mol), and triethylamine (20 μL, 0.0002 mol) in methylene chloride (300 μL, 0.005 mol) was stirred at rt for 2 h. The crude reaction mixture was purified by prep.-HPLC to afford 17.4 mg of the desired product. LC-MS: 430.3 (M+H)+.

reactant | 7-(4-aminophenyl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | 0.00006 mol, 20 mg | NC1=CC=C(C=C1)N1CC2(CCN(C2=O)[C@@H]2CC[C@H](CC2)O)CCC1 | C20H29N3O2
reactant | isopropyl chloroformate | 0.000087 mol, 11 mg | ClC(=O)OC(C)C | C4H7ClO2
reactant | triethylamine | 0.0002 mol, 20 μL | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 0.005 mol, 300 μL | C(Cl)Cl | CH2Cl2
product | isopropyl {-4-[2-(trans-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]dec-7-yl]phenyl}carbamate | 17.4 mg | O[C@@H]1CC[C@H](CC1)N1C(C2(CC1)CN(CCC2)C2=CC=C(C=C2)NC(OC(C)C)=O)=O | C24H35N3O4
